US07247734B2
To p-Methoxy phenylacetone (1 eq) was added dimethylformamide dimethylacetal (1.5 eq) and the mixture was stirred at reflux overnight. The reaction was cooled to room temperature and diluted with ethanol. Hydrazine hydrate was added (3 eq) and all was heated to 85° C. over night. Once cooled the reaction mixture was concentrated in vacuo and partitioned between EtOAc and water. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to give 4-(4-methoxy-phenyl)-5-methyl-1H-pyrazole as a white solid.

reactant | p-Methoxy phenylacetone | 1 eq | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | dimethylformamide dimethylacetal | 1.5 eq | COC(N(C)C)OC | C5H13NO2
reactant | Hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-methoxy-phenyl)-5-methyl-1H-pyrazole | COC1=CC=C(C=C1)C=1C=NNC1C | C11H12N2O
